US05574042
Phosphoryl chloride (12.7 ml) was dropwise added to N,N-dimethylformamide (70 ml), and the mixture was stirred for 30 minutes at ambient temperature. A solution of N-benzyl-3,5-dichloro-N-methylaniline (7.26 g) in N,N-dimethylformamide (30 ml) was dropwise added thereto, and the mixture was stirred for 30 minutes at ambient temperature and then for 30 minutes at 50° C. The reaction mixture was neutralized with 1N aqueous sodium hydroxide solution and extracted with ethyl acetate. The organic solution was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a flash chromatography (ethyl acetate:n-hexane=1:6, V/V) to give N-benzyl-3,5-dichloro-4-formyl-N-methylaniline (5.70 g).

reactant | Phosphoryl chloride | 12.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-benzyl-3,5-dichloro-N-methylaniline | 7.26 g | C(C1=CC=CC=C1)N(C1=CC(=CC(=C1)Cl)Cl)C | C14H13Cl2N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-benzyl-3,5-dichloro-4-formyl-N-methylaniline | 5.70 g | C(C1=CC=CC=C1)N(C1=CC(=C(C(=C1)Cl)C=O)Cl)C | C15H13Cl2NO
